US04661438
2-Methyl-5-methylthio-3H-benzotellurazolium Chloride
1,1,1-Trichloro-3-methyl-6-methylthio-2,1,4-benzoxatellurazinium, inner salt (Example 10) (20.7 g=0.05 mole) was placed in methanol (200 ml), and sodium hydroxide (4 g=0.1 mole) dissolved in water (10 ml) was added. The material did not completely dissolve. Sodium borohydride was added in portions with stirring under a nitrogen atmosphere. The starting material underwent vivid color changes to orange and then to blue with the addition of each portion of reducing agent. The mass became difficult to stir. Eventually, the reaction mixture became more liquid, though the orange color kept returning after each portion was added, as the rather insoluble starting material underwent the first reduction step. The reaction mixture was kept overnight under an atmosphere of nitrogen. The reduction was continued the next day by heating the mixture to near reflux temperature while sodium borohydride was being added. When the stage was reached where the reaction turned colorless after a portion was added and the orange color did not return upon further stirring (after the addition of 6.65 g=0.175 mole sodium borohydride), the mixture was cooled to ≃10° C. and concentrated hydrochloric acid (50 ml=0.5 mole) was added in one portion. The mixture turned orange, then yellow, and a copious beige precipitate formed. This was stirred for 45 minutes and then collected by filtration to yield 27.5 g solids. On recrystallization from methanol (300 ml), using Celite® to clarify the solution, there were obtained 13.5 g, 81.9% of theory, cream colored needles, m.p. 130°-145° C. (dec.).

reactant | 1,1,1-Trichloro-3-methyl-6-methylthio-2,1,4-benzoxatellurazinium | Cl[TeH]1(OC(=[NH+]C2=C1C=CC(=C2)SC)C)(Cl)Cl
reactant | sodium hydroxide | 0.1 mole, 4 g | [OH-].[Na+]
reactant | Sodium borohydride | [BH4-].[Na+]
reactant | sodium borohydride | 0.175 mole | [BH4-].[Na+]
reactant | hydrochloric acid | 0.5 mole, 50 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 2-Methyl-5-methylthio-3H-benzotellurazolium Chloride | 27.5 g | [Cl-].CC1[Te]C2=C([NH2+]1)C=C(C=C2)SC | InChI=1S/C9H11NSTe.ClH/c1-6-10-8-5-7(11-2)3-4-9(8)12-6;/h3-6,10H,1-2H3;1H
